US07034042B2
A solution of {(R)-1-(tert-butoxycarbonylamino-methyl)-2-[4-(4-fluoro-phenoxy)-piperidin-1-yl]-ethyl}-carbamic acid benzyl ester (0.88 g, 1.77 mmol) and ammonium formate (0.33 g, 5.31 mmol) in methanol is treated with 10% palladium on charcoal (0.3 g). The reaction mixture is stirred at ambient temperature for 1 hour under nitrogen and then is filtered and evaporated. The residue is dissolved in ethylacetate and washed with saturated brine. The ethylacetate phase is dried over MgSO4 and evaporated to afford {(R)-2-amino-3-[4-(4-fluoro-phenoxy)-piperidin-1-yl]-propyl}-carbamic acid tert-butyl ester. [MH]+ 368.1.

reactant | {(R)-1-(tert-butoxycarbonylamino-methyl)-2-[4-(4-fluoro-phenoxy)-piperidin-1-yl]-ethyl}-carbamic acid benzyl ester | 1.77 mmol, 0.88 g | C(C1=CC=CC=C1)OC(N[C@@H](CN1CCC(CC1)OC1=CC=C(C=C1)F)CNC(=O)OC(C)(C)C)=O | C27H36FN3O5
reactant | ammonium formate | 5.31 mmol, 0.33 g | C(=O)[O-].[NH4+]
solvent | methanol | CO | CH4O
catalyst | palladium on charcoal | 0.3 g | [Pd] | Pd
product | {(R)-2-amino-3-[4-(4-fluoro-phenoxy)-piperidin-1-yl]-propyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC[C@H](CN1CCC(CC1)OC1=CC=C(C=C1)F)N)=O | C19H30FN3O3
